US07368578B2
A mixture of methyl 3-benzyloxy-1-phenyl-1H-pyrazole-5-carboxylate (15.00 g), 5% palladium on carbon (10.92 g) and tetrahydrofuran (200 mL) was stirred under a hydrogen atmosphere at room temperature for 1 hr. After removing palladium on carbon by filtration, the mother liquid was concentrated. The residue was subjected to silica gel column chromatography to give methyl 3-hydroxy-1-phenyl-1H-pyrazole-5-carboxylate (10.30 g, yield 97%) as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:2, v/v). The crystals were recrystallized from tetrahydrofuran-isopropyl ether. melting point: 227-228° C.

reactant | methyl 3-benzyloxy-1-phenyl-1H-pyrazole-5-carboxylate | 15.00 g | C(C1=CC=CC=C1)OC1=NN(C(=C1)C(=O)OC)C1=CC=CC=C1 | C18H16N2O3
catalyst | palladium on carbon | 10.92 g | [Pd] | Pd
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | methyl 3-hydroxy-1-phenyl-1H-pyrazole-5-carboxylate | 10.30 g, yield 97% | OC1=NN(C(=C1)C(=O)OC)C1=CC=CC=C1 | C11H10N2O3
